US07183276B2
A mixture of methyl 3-[2-chloro-4-(4-chlorophenyl)-5-oxazolyl]propionate (1.50 g), dihydroxyphenylborane (650 mg), sodium hydrogen carbonate (1.68 g), tetrakis(triphenylphosphine)palladium (250 mg), toluene (50 mL), ethanol (25 mL) and water (25 mL) was stirred under an argon atmosphere with heating under reflux for 12 hrs. The reaction mixture was concentrated and the residue was purified by silica gel column chromatography. Methyl 3-[4-(4-chlorophenyl)-2-phenyl-5-oxazolyl]propionate (1.50 g, 88%) was obtained as a yellow oil from a fraction eluted with hexane-ethyl acetate (6:1, volume ratio).

reactant | methyl 3-[2-chloro-4-(4-chlorophenyl)-5-oxazolyl]propionate | 1.50 g | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCC(=O)OC | C13H11Cl2NO3
reactant | dihydroxyphenylborane | 650 mg | OB(C1=CC=CC=C1)O | C6H7BO2
reactant | sodium hydrogen carbonate | 1.68 g | C(O)([O-])=O.[Na+]
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 250 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 25 mL | O | H2O
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | Methyl 3-[4-(4-chlorophenyl)-2-phenyl-5-oxazolyl]propionate | 1.50 g, 88% | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)OC)C1=CC=CC=C1 | C19H16ClNO3
